* C:\Users\eddy.a\Downloads\Mixer with LT Spice\D1288_RX_Channel_TEST.asc
Lrx1 N001 sig {Lplc} Rser={R_Lser} Rpar={R_Lpar}
Lrx comm- comm+ {Lplc} Rser={R_Lser} Rpar={R_Lpar}
V3 sig N001 PWL file=Arc_TX1RX1.csv
R1 comm- 0 1G
R2 N001 0 1m
V4 MIX_PWM 0 PULSE({mix_off} {mix_on} {mix_delay} {mix_Tedge} {mix_Tedge} {mix_Ton} {mix_Tp})
R4 OUT 0 100k
XX1 comm+ comm- 0 MIX_PWM OUT plc_rx_channel_d1288

* block symbol definitions
.subckt plc_rx_channel_d1288 comm+ comm- RX_GND MIX_PWM RX_OUT
V1 VREF_LOW RX_GND 1.25
V5 3V3 RX_GND 3.3
R3 comm+ comm- 49.9
R4 N007 comm+ 10k
R5 N017 comm- 10k
R6 comm+ comm- 100
R7 RXMix_DIFF N017 10k
C1 RXMix_DIFF N017 120p
R8 N007 VREF 10k
C2 VREF N007 120p
R9 N010 RXMix_DIFF 649
R10 N016 N010 649
C3 RX_MIX N010 3.9n
C4 N016 VREF 1n
R11 E MIX_PWM 49.9
R12 RX_GND E 10k
XX1 E RX_GND S N022 analog_switch
R13 VREF S 1m
R14 N005 RX_MIX 10k
R15 N019 RX_MIX 10k
R16 N022 N019 1m
R17 N006 N005 10k
C5 N006 N005 4.7p
R18 N012 N006 84.5k
R19 N018 N012 84.5k
C6 N018 RX_GND 330p
C7 N013 N012 680p
R20 N014 N013 19.6k
R21 N020 N014 21k
C8 N020 RX_GND 150p
R24 N011 N008 24.9k
R22 N021 N011 4.99k
R23 N003 RX_OUT 24.9k
C10 RX_OUT N003 10p
R25 N009 N003 4.99k
R26 VREF_LOW N009 4.99k
R1 VREF N021 4.99k
V2 5V0 RX_GND 5
R2 5V0 N023 20k
R27 N023 RX_GND 20k
C12 N023 RX_GND 100n
D1 N007 5V0 1N4148
D2 N017 5V0 1N4148
D3 RX_GND N007 1N4148
D4 RX_GND N017 1N4148
R28 N021 N015 1m
XU1 N007 N017 5V0 RX_GND RXMix_DIFF AD8691
XU2 N016 RX_MIX 5V0 RX_GND RX_MIX AD8691
XU3 N023 VREF 5V0 RX_GND VREF AD8691
XU4 N019 N005 5V0 RX_GND N006 AD8691
XU5 N018 N013 5V0 RX_GND N013 AD8691
XU6 N020 N015 5V0 RX_GND N015 AD8691
XU7 VREF N011 5V0 RX_GND N008 AD8691
XU8 N001 N004 3V3 RX_GND N002 AD8691
C11 N009 N008 1µ V=16 Irms=2.59 Rser=0.0171188 Lser=0 mfg="KEMET" pn="C0603C105K4RAC" type="X7R"
C9 N015 N014 6.8n V=50 Irms=247m Rser=0.759039 Lser=0 mfg="KEMET" pn="C0603C103K5RAC" type="X7R"
R29 N001 VREF_LOW 1m
R30 N004 N003 1m
R31 RX_OUT N002 1m
C13 E RX_GND 100p
.ends plc_rx_channel_d1288

.subckt analog_switch E GND S D
S1 S D E GND MIX_SW
.model MIX_SW SW(Ron=10 Roff=10G Vt=1.65 Vh=-1 Lser=0 Vser=0)
.ends analog_switch

.model D D
.lib C:\Users\eddy.a\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 10 0
.inc RX_Params-JupiterPlus.txt
.param k=1
K11 Lrx1 Lrx {k}
.inc RX_Sweeps.txt
.lib ADI.lib
.backanno
.end
